US08193359B2
3-Carboxymethoxyazetidine-1-carboxylic acid tert-butyl ester
Anhydrous DMF (5 mL) was added slowly to a stirred mixture of 3-hydroxyazetidine-1-carboxylic acid tert-butyl ester (350 mg, 2.0 mmol) and NaH (121 mg of a 60% dispersion in mineral oil, 3.0 mmol) at 0° C. After 15 min, ICH2CO2Na (630 mg, 3.0 mmol) was added, then stirring was continued at 20° C. for 65 h. The solvent was removed in vacuo, then the residue was partitioned between H2O (15 mL) and EtOAc (10 mL). The organic phase was extracted with saturated aqueous Na2CO3 (2×10 mL), then the combined aqueous extracts were acidified to pH 2 with 2 M HCl, before being extracted with EtOAc (2×50 mL). The EtOAc extracts were washed with brine, before being dried (MgSO4). Filtration, solvent evaporation, and column chromatography (IH-EtOAc, 1:1) furnished the title compound. δH (CDCl3): 1.45 (s, 9H), 3.90-4.00 (m, 2H), 4.10-4.19 (m, 4H), 4.36-4.42 (m, 1H), 10.10-10.30 (br s, 1H).

reactant | 3-hydroxyazetidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
reactant | NaH | [H-].[Na+]
reactant | ICH2CO2Na | 3.0 mmol, 630 mg | ICC(=O)O[Na]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-Carboxymethoxyazetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)OCC(=O)O | C10H17NO5
